US06391887B1
7-(4-Morpholinyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione
Analogously to Example 4, 7-(4-morpholinyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (100 mg, 0.37 mmol) is reacted with Lawesson's reagent (164 mg, 0.41 mmol) to form 90 mg (84%) of product.

reactant | 7-(4-morpholinyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.37 mmol, 100 mg | N1(CCOCC1)C=1C=CC=2C3C(C(NC2C1)=O)CCC3 | C16H20N2O2
reactant | Lawesson's reagent | 0.41 mmol, 164 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 7-(4-Morpholinyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 90 mg, 84% | N1(CCOCC1)C=1C=CC=2C3C(C(NC2C1)=S)CCC3 | C16H20N2OS
